US07968563B2
3-Chloroperoxybenzoic acid (mCPBA) (1.4 g of 77% pure material, 4.74 mmol) was added over a period of five minutes to a solution of 7-(benzyloxy)-2-(chloromethyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinoline (2.0 g, 4.74 mmol) in chloroform (47 mL); the reaction mixture was stirred at ambient temperature for one hour. The reaction solution was partitioned between chloroform (50 mL) and saturated aqueous sodium carbonate (50 mL). The layers were separated and the aqueous layer extracted with chloroform (50 mL). The organic layers were combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford an oil. To the crude N-oxide dissolved in dichloromethane (24 mL) was added ammonium hydroxide (8 mL), and then p-toluenesulfonyl chloride (1.0 g, 3.11 mmol) was added in portions over a period of 2 minutes. The reaction mixture was stirred at ambient temperature for one hour, and then saturated aqueous sodium carbonate (50 mL) and chloroform (50 mL) were added. The aqueous layer was separated and extracted with chloroform (50 mL). The combined organic fractions were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 2.1 g of crude product as a tan solid. The crude product was purified by column chromatography using a HORIZON HPFC system (an automated, modular high-performance flash purification product available from Biotage, Inc, Charlottesville, Va., USA) using a FLASH 40+M silica cartridge (also available from Biotage, Inc.) (eluting with dichloromethane:methanol in a gradient from 100:0 to 90:10) to provide 1.8 g of 7-(benzyloxy)-2-(chloromethyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a tan solid.

reactant | 3-Chloroperoxybenzoic acid | 4.74 mmol, 1.4 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 7-(benzyloxy)-2-(chloromethyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinoline | 4.74 mmol, 2.0 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC3CCOCC3)CCl | C24H24ClN3O2
reactant | ammonium hydroxide | 8 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 3.11 mmol, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 47 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 24 mL | ClCCl | CH2Cl2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-(benzyloxy)-2-(chloromethyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.8 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCOCC3)CCl | C24H25ClN4O2
